US08211908B2
To a solution of 0.10 g of 6-chloro-4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one in 3 mL of N,N-dimethylformamide, 0.57 g of cesium fluoride was added, and the mixture was stirred at 90 to 100° C. for 1 hour 10 minutes. Thereto was further added 0.57 g of cesium fluoride, and the mixture was stirred at 90 to 100° C. for 1 hour 30 minutes. Thereto were added ethyl acetate and water, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed sequentially with diluted hydrochloric acid and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=50:1 to obtain 60 mg of 4-(1,3-dioxolan-2-ylmethyl)-6-fluoropyrido(2,3-b)pyrazin-3(4H)-one as a light yellow solid.

reactant | 6-chloro-4-(1,3-dioxolan-2-ylmethyl)pyrido(2,3-b)pyrazin-3(4H)-one | 0.10 g | ClC=1C=CC2=C(N(C(C=N2)=O)CC2OCCO2)N1 | C11H10ClN3O3
reactant | cesium fluoride | 0.57 g | [F-].[Cs+]
reactant | cesium fluoride | 0.57 g | [F-].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(1,3-dioxolan-2-ylmethyl)-6-fluoropyrido(2,3-b)pyrazin-3(4H)-one | 60 mg | O1C(OCC1)CN1C2=C(N=CC1=O)C=CC(=N2)F | C11H10FN3O3
